US07109186B2
To 2 mL of AcOH at 60° C. was added 1 mL 2M MeNH2 (THF) and 60 mg paraformaldehyde. After stirring for 5 min 3-[bis-(4-fluoro-benzyl)-carbamoyl]-2-hydroxy-acrylic acid methyl ester (723 mg, 2.0 mmol) was added and the resulting solution stirred at 60° C. for 2 h. The reaction mixture was then cooled to room temperature and transferred to a separatory funnel. The solution was extracted with EtOAc, the organic layer separated, washed with H2O, satd NaCl, then dried over Na2SO4. After filtration the solvent was removed to isolate 500 mg (67% yield) of 4-hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid bis-(4-fluoro-benzyl)-amide as an orange solid. MS (M+H) calcd for C20H19F2N2O3: 373.1. found: 373.0. 1H NMR (500 MHz, DMSO) δ: 2.94 (s, 3), 4.01 (s, 2), 4.46 (br s, 2), 4.55 (br s, 2), 7.13–7.22 (overlapping m, 8).

reactant | MeNH2 | 2M, 1 mL | CN | CH5N
reactant | paraformaldehyde | 60 mg | C=O | CH2O
reactant | 3-[bis-(4-fluoro-benzyl)-carbamoyl]-2-hydroxy-acrylic acid methyl ester | 2.0 mmol, 723 mg | COC(C(=CC(N(CC1=CC=C(C=C1)F)CC1=CC=C(C=C1)F)=O)O)=O | C19H17F2NO4
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | 4-hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid bis-(4-fluoro-benzyl)-amide | 500 mg, 67% yield | FC1=CC=C(CN(C(=O)C=2CN(C(C2O)=O)C)CC2=CC=C(C=C2)F)C=C1 | C20H18F2N2O3
